US07691882B2
2-Fluoro-4-(pyridin-2-ylmethoxy)-benzaldehyde
To an N,N-dimethylformamide (10.0 mL) solution of 2-fluoro-4-hydroxy-benzaldehyde (1.60 g, 11.4 mmol) was added sodium hydride (547 mg, 13.7 mmol, 60% in oil) under nitrogen atmosphere at 0° C., which was stirred for 30 minutes at room temperature. 2-Picolyl chloride (2.80 g, 17.1 mmol) was then added at room temperature and stirred for 1 hour at 70° C. Water was added to the reaction solution at room temperature, which was then extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride, and the solvent was evaporated under a reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:heptane=1:3) to obtain the title compound (1.07 g, 40.6%).

reactant | N,N-dimethylformamide | 10.0 mL | CN(C=O)C | C3H7NO
reactant | 2-fluoro-4-hydroxy-benzaldehyde | 11.4 mmol, 1.60 g | FC1=C(C=O)C=CC(=C1)O | C7H5FO2
reactant | sodium hydride | 13.7 mmol, 547 mg | [H-].[Na+]
reactant | 2-Picolyl chloride | 17.1 mmol, 2.80 g | N1=C(C=CC=C1)CCl | C6H6ClN
solvent | Water | O | H2O
product | 2-Fluoro-4-(pyridin-2-ylmethoxy)-benzaldehyde | 1.07 g, 40.6% | FC1=C(C=O)C=CC(=C1)OCC1=NC=CC=C1 | C13H10FNO2
